US08877922B2
To a solution of tert-butyl 2-(hydroxymethyl)piperidine-1-carboxylate (0.86 g, 4 mmol) in dry THF (30 mL) was added at −20° C. NaH (0.32 g, 8 mmol) and the mixture was stirred 10 min at −20° C. and then 20 min at room temperature. The reaction mixture was then cooled to −20° C. and 2,6-dinitrobenzonitrile (0.772 g, 4 mmol) in dry THF (10 mL) and DMF (1 mL) was added dropwise over 15 min period. The solution was stirred under nitrogen at room temperature for 18 hours, diluted with water and extracted with EtOAc, the combined organic phases were washed with brine, dried over MgSO4, filtered and evaporated. The residue was purified by Biotage purification system (120 g Silicycle column, Hexane:EtOAc=3:2 as eluent) to give tert-butyl 2-((2-cyano-3-nitrophenoxy)methyl)piperidine-1-carboxylate (1.02 g, 70.6%). MS 262 [M+H-Boc]+.

reactant | tert-butyl 2-(hydroxymethyl)piperidine-1-carboxylate | 4 mmol, 0.86 g | OCC1N(CCCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | NaH | 8 mmol, 0.32 g | [H-].[Na+]
reactant | 2,6-dinitrobenzonitrile | 4 mmol, 0.772 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-((2-cyano-3-nitrophenoxy)methyl)piperidine-1-carboxylate | 1.02 g, 70.6% | C(#N)C1=C(OCC2N(CCCC2)C(=O)OC(C)(C)C)C=CC=C1[N+](=O)[O-] | C18H23N3O5
